US05719152
To a suspension of LiAlH4 (8.3 g, 0.22 mol) in THF (200 mL) was added dropwise 2-methoxycarbonyltetrahydroquinoline (42 g, 0.22 mol) in THF (200 mL) at 0° C. The mixture was stirred for 3 h at room temperature and refluxed for 0.5 h. The excess reagent was decomposed by addition of aqueous sodium hydroxide in THF. To the mixture was added 1N aqueous NaOH, water, and diethyl ether, successively. The organic layer was separated, washed with brine, dried over magnesium sulfate, and concentrated to give 38.4 g of 2-hydroxymethyltetrahydroquinoline (quant).

reactant | LiAlH4 | 0.22 mol, 8.3 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-methoxycarbonyltetrahydroquinoline | 0.22 mol, 42 g | COC(=O)C1NC2=CC=CC=C2CC1 | C11H13NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | water | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-hydroxymethyltetrahydroquinoline | 38.4 g | OCC1NC2=CC=CC=C2CC1 | C10H13NO
